US04276305
1.8 g of magnesium are covered with 10 ml of absolute tetrahydrofuran. About 1 ml of a solution of 8 g of vinyl bromide in 8 ml of absolute tetrahydrofuran is added dropwise and the reaction is initiated by slight warming. Then, the remainder of the vinyl bromide solution is added dropwise. The mixture is left to react until it reaches room temperature. A solution of 7 g of 2-naphthaldehyde in 50 ml of absolute tetrahydrofuran is then added slowly dropwise, as the temperature rises to 40° C. The reaction is completed within 1 hour. The mixture is then hydrolyzed by the addition with stirring of 20 ml of saturated ammonium chloride solution at 0° C. The residue is filtered and rinsed with ether. The filtrate is diluted with water and extracted twice with ether. The ether extracts are washed with semi-saturated and saturated sodium chloride solution, dried over sodium sulfate and evaporated to yield 1-(2-naphthyl)-2-propen-1-ol which, without further purification, is esterified with cyclopropane carboxylic acid chloride in the process of Example 2. The resulting product is cyclopropane carboxylic acid 1-(2-naphthyl)allyl ester of melting point 30°-32° C.

reactant | magnesium | 1.8 g | [Mg] | Mg
reactant | vinyl bromide | 8 g | C(=C)Br | C2H3Br
reactant | 2-naphthaldehyde | 7 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(2-naphthyl)-2-propen-1-ol | C1=C(C=CC2=CC=CC=C12)C(C=C)O | C13H12O
